US08067406B2
0.74 g of 2-(2-(1-benzothiophene-6-yl)ethoxy)acetic acid was dissolved in 7.4 ml of methylene chloride. Thereafter, 1.36 ml of triethylamine and 0.22 g of imidazole were added to the obtained solution. Subsequently, the mixture was cooled to 5° C. Thereafter, 0.24 ml of thionyl chloride was added dropwise thereto, and the obtained mixture was stirred at the same above temperature for 1 hour. After the reaction mixture was cooled to −50° C., 0.45 ml of triethylamine and 0.32 ml of 3-pyrrolidinol were added thereto. The mixture was stirred at the same above temperature for 1 hour and then at a room temperature for 1 hour. Thereafter, water was added to the reaction mixture, and an organic layer was separated. The organic layer was successively washed with 1 mol/l hydrochloric acid, then with a 2 mol/l aqueous sodium hydroxide solution, and then with a saturated saline solution. The resultant was then dried over anhydrous magnesium sulfate. Subsequently, the solvent was distilled away under a reduced pressure, so as to obtain a light yellow oil product, 2-(2-(1-benzothiophene-6-yl)ethoxy)-1-(3-hydroxy-1-pyrrolidinyl)-1-ethanone.

reactant | 2-(2-(1-benzothiophene-6-yl)ethoxy)acetic acid | 0.74 g | S1C=CC2=C1C=C(C=C2)CCOCC(=O)O | C12H12O3S
reactant | imidazole | 0.22 g | N1C=NC=C1 | C3H4N2
reactant | thionyl chloride | 0.24 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-pyrrolidinol | 0.32 ml | N1CC(CC1)O | C4H9NO
solvent | methylene chloride | 7.4 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | triethylamine | 0.45 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 1.36 ml | C(C)N(CC)CC | C6H15N
product | 2-(2-(1-benzothiophene-6-yl)ethoxy)-1-(3-hydroxy-1-pyrrolidinyl)-1-ethanone | S1C=CC2=C1C=C(C=C2)CCOCC(=O)N2CC(CC2)O | C16H19NO3S
